US08835625B2
Synthesis of 5′-O-tert-butyldimethylsilyloxy-3′-deoxythymidine (2)
To a stirred solution of 3′-deoxythymidine (2.0 g, 8.84 mmol) in anhydrous DMF (15 mL) were added imidazole (0.90 g, 13.26 mmol) and tert-butyldimethylsilyl chloride (TBDMSCl) (1.73 g, 11.49 mmol) at r.t., followed by stirring for 4 h. After evaporating the solvent, the residue was partitioned between CH2Cl2 and water. The organic layer was dried over Na2SO4 and evaporated to dryness. The organic residue was purified by silica gel column chromatography with MeOH/CH2Cl2 (0-3%) to give the corresponding product (2.60 g, 7.63 mmol, 87%). 1H NMR (CDCl3, 300 MHz) δ 8.80 (br s, 1H, NH), 7.57 (q, 1H, H6, J=1.2 Hz), 6.07 (dd, 1H, H1′, J=4.8 and 6.3 Hz), 4.10-4.18 (m, 1H, H4′), 3.98 (dd, 1H, H5′, J=2.4 and 11.4 Hz), 3.70 (dd, 1H, H5′, J=3.0 and 11.4 Hz), 2.30-2.4 (m, 1H, H2′), 1.93-2.04 (m, 3H, H2′, and 2H3′), 1.91 (d, 9H, 3 CH3), 0.10 (2 s, 6H, 2 CH3).

reactant | 3′-deoxythymidine | 8.84 mmol, 2.0 g | [C@@H]1(CC[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O4
reactant | imidazole | 13.26 mmol, 0.90 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 11.49 mmol, 1.73 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 5′-O-tert-butyldimethylsilyloxy-3′-deoxythymidine | 7.63 mmol, 2.60 g, 87% | [Si](C)(C)(C(C)(C)C)OOC[C@@H]1CC[C@@H](O1)N1C(=O)NC(=O)C(C)=C1 | C16H28N2O5Si
